US08486950B2
To a solution of (3-hydroxycyclobutyl)carbamic acid tent-butyl ester (180 mg, 0.96 mmol) in pyridine (4 mL) was added benzoyl chloride (116 μL, 1.0 mmol). The reaction mixture was stirred at room temperature for 2 hrs and then concentrated under reduced pressure. The residue was dissolved in EtOAc (20 mL), washed with 1 N HCl, water and brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Et2O/pentane: gradient 0% to 50%) to give benzoic acid 3-tert-butoxycarbonylaminocyclobutyl ester as a white solid (262 mg, yield: 94%). LCMS (ESI) m/z: 192 [M+H-BOC]+

reactant | (3-hydroxycyclobutyl)carbamic acid | OC1CC(C1)NC(O)=O | C5H9NO3
reactant | benzoyl chloride | 1.0 mmol, 116 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 4 mL | N1=CC=CC=C1 | C5H5N
product | benzoic acid 3-tert-butoxycarbonylaminocyclobutyl ester | 262 mg, yield: 94% | C(C)(C)(C)OC(=O)NC1CC(C1)OC(C1=CC=CC=C1)=O | C16H21NO4
